### PR TITLE
[Merged by Bors] - feat (Algebra/Module/Submodule/LinearMap): Lift a linear map that takes values in the range of an injective linear map.

### PR DESCRIPTION
**Pull request by ScottCarnahan**
Given a linear map `f : M → N` whose values lie in the image of an injective linear map
`p : P → N`, one has a unique lift to a linear map `M → P` that makes the triangle commute.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Submodule/LinearMap.lean [hunk 1]
```diff
@@ -169,6 +169,34 @@ theorem subtype_comp_codRestrict (p : Submodule R₂ M₂) (h : ∀ b, f b ∈ p
...
+    (f : M →ₛₗ[σ₁₂] M₂) (hp : Injective p) (h : ∀ c, f c ∈ range p) (x : M) :
+    (f.codLift p hp h x) = (h x).choose :=
+  rfl
+
+@[simp]
+theorem comp_codLift {M₂' : Type*} [AddCommMonoid M₂'] [Module R₂ M₂'] (p : M₂' →ₗ[R₂] M₂)
+    (f : M →ₛₗ[σ₁₂] M₂) (hp : Injective p) (h : ∀ c, f c ∈ range p) :
+    p.comp (f.codLift p hp h) = f := by
+  ext x
+  rw [comp_apply, codLift_apply, (h x).choose_spec]
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/Submodule/LinearMap.lean:198]: Nitpick / golf:
```suggestion
section

variable {M₂' : Type*} [AddCommMonoid M₂'] [Module R₂ M₂']
  (p : M₂' →ₗ[R₂] M₂) (hp : Injective p) (h : ∀ c, f c ∈ range p)

/-- A linear map `f : M → M₂` whose values lie in the image of an injective linear map
`p : M₂' → M₂` admits a unique lift to a linear map `M → M₂'`. -/
noncomputable def codLift :
    M →ₛₗ[σ₁₂] M₂' where
  toFun c := (h c).choose
  map_add' b c := by
    apply hp
    simp_rw [map_add, (h _).choose_spec, ← map_add, (h _).choose_spec]
  map_smul' r c := by
    apply hp
    simp_rw [map_smul, (h _).choose_spec, LinearMap.map_smulₛₗ]

@[simp] theorem codLift_apply (x : M) :
    (f.codLift p hp h x) = (h x).choose :=
  rfl

@[simp]
theorem comp_codLift :
    p.comp (f.codLift p hp h) = f := by
  ext x
  rw [comp_apply, codLift_apply, (h x).choose_spec]

end
```

**Review by ocfnash — APPROVED** [review]
Thanks!

Might be worth adding a comment in the doc string to `LinearMap.restrict` saying: "See also `LinearMap.codLift`.".

bors d+
